US08865739B2
To a solution of (2-amino-5-chlorophenyl)(phenyl)methanone (693 mg, 3.0 mmol) in ethanol (10 ml) was added 4-(1-(3-oxobutanoyl)piperidin-4-yl)benzamide (893 mg, 3.1 mmol) followed by ytterbium triflate (186 mg, 0.3 mmol). The mixture was heated at 82° C. for 12 hours. The reaction mixture was cooled to room temperature, and the white powder thus obtained was filtered off, washed with ethanol, ethyl acetate, and finally ether to provide 4-(1-(6-chloro-2-methyl-4-phenylquinoline-3-carbonyl)piperidin-4-yl)benzamide (1.1 g, 76%) as a free flowing white powder. 1H NMR (DMSO-d6, 400 MHz) 3:1 Rotameric forms complicates spectrum, the major rotamer is described; δ 8.09 (d, 1H, J=8.9 Hz); 7.9 (bs, NH, 1H); 7.8 (m, 3H); 7.7-7.5 (m, 6H); 7.25 (bs, NH, 1H); 6.8 (app d, 2H); 4.5 (d, 1H, J=12.9 Hz); 3.4-3.3 (m, 1H); 3.38 (s, 3H); 3.13 (app t, 1H, J=12.9 Hz); 2.8-2.4 (m, 2H); 2.5 (s, 3H); 0.72 (m, 1H); 0.54 (m, 1H). LC MS (CI) shows M+H 484.

reactant | (2-amino-5-chlorophenyl)(phenyl)methanone | 3.0 mmol, 693 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-(1-(3-oxobutanoyl)piperidin-4-yl)benzamide | 3.1 mmol, 893 mg | O=C(CC(=O)N1CCC(CC1)C1=CC=C(C(=O)N)C=C1)C | C16H20N2O3
reactant | ytterbium triflate | 0.3 mmol, 186 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(1-(6-chloro-2-methyl-4-phenylquinoline-3-carbonyl)piperidin-4-yl)benzamide | 1.1 g, 76% | ClC=1C=C2C(=C(C(=NC2=CC1)C)C(=O)N1CCC(CC1)C1=CC=C(C(=O)N)C=C1)C1=CC=CC=C1 | C29H26ClN3O2
